US04931463
A solution of 2.56 g of methyl (R)-3-[(tetrahydro-2H-pyran-2-yl)oxy]-6-heptenoate in 40 ml of ethyl acetate was treated with ozone at -75° C. After completion of the reaction 0.1 g of Pd-on-carbon was added thereto and the mixture was hydrogenated at room temperature. After the hydrogen uptake was finished the catalyst was filtered off and washed with ethyl acetate and the filtrate and washings were evaporated in vacuo. There was obtained methyl 5-formyl-(R)-3-[(tetrahydro-2H-pyran-2-yl)oxy]-pentanecarboxylate.

reactant | methyl (R)-3-[(tetrahydro-2H-pyran-2-yl)oxy]-6-heptenoate | 2.56 g | O1C(CCCC1)O[C@@H](CC(=O)OC)CCC=C | C13H22O4
reactant | ozone | O=[O+][O-] | O3
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | methyl 5-formyl-(R)-3-[(tetrahydro-2H-pyran-2-yl)oxy]-pentanecarboxylate | C(=O)CC[C@H](CCC(=O)OC)OC1OCCCC1 | C13H22O5
